US07524840B2
5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-thione (IIm) was prepared by reacting 0.00081 moles of 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-one (Im) with Lawesson's reagent in a manner analogous to Example 38. MH+/Z=386.

reactant | 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-one | 0.00081 moles | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OCCOC)C#N)=O | C19H16ClN3O3
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-thione | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OCCOC)C#N)=S | C19H16ClN3O2S
